US06593338B2
1-Chloro-3-phenyl-2,7-naphthyridine
HCl gas was bubbled through a warmed solution of Intermediate 1 (3.49 g, 14.0 mmol) in glacial acetic acid (35 ml) for about 2 min. The reaction flask was stoppered and the reaction mixture was stirred at 40° for 6 h and at room temperature for 18 h. The volatiles were removed in vacuo to afford a yellow solid which was treated with saturated aqueous NaHCO3 (50 ml). The obtained light yellow powder was collected by filtration, washed with water and dried to afford a mixture of 1-hydroxy-3-phenyl-2,7-naphthyridine and the title compound (2.58 g, 2:1 ratio). This mixture was treated with phosphorus oxychloride (30 ml) at 130° for 7 h. The volatiles were removed in vacuo and the obtained yellow solid partitioned (with CARE) between EtOAC (150 ml) and ice-cold saturated aqueous NaHCO3 (50 ml+5 g solid NaHCO3). The phases were separated and the aqueous layer re-extracted with EtOAc (2×50 ml). The combined organic extracts were washed with brine (10 ml), dried (Na2SO4) and evaporated in vacuo to afford a dull yellow solid (2.5 g). Chromatography (silica: 1:1:2-2:1:1 EtOAc/DCM/Hexane) afforded the title compound as a pale yellow solid (2.21 g, 51% over two steps). δH (CDCl3) 9.74 (1H, s), 8.81 (1H, d, J 5.7 Hz), 8.17 (1H, d, J 8.0 Hz), 7.99 (1H, s), 7.70 (1H, d, J 5.7 Hz), 7.60-7.49 (3H, m); m/z (ES+, 70V) 241 and 243 (MH+).

reactant | HCl | Cl | ClH
reactant | NaHCO3 | 50 ml | C(=O)(O)[O-].[Na+]
reactant | 1-hydroxy-3-phenyl-2,7-naphthyridine | OC1=NC(=CC2=CC=NC=C12)C1=CC=CC=C1 | C14H10N2O
solvent | acetic acid | 35 ml | C(C)(=O)O | C2H4O2
product | 1-Chloro-3-phenyl-2,7-naphthyridine | 2.58 g | ClC1=NC(=CC2=CC=NC=C12)C1=CC=CC=C1 | C14H9ClN2
